US06284796B1
Preparation of 3-(iso-buten-1-yl)phenylmagnesium bromide
To a suspension of Rieke magnesium (0.12 g, 4.74 mmol; commercially available suspension) in dry THF (4.61 mL) was added neat 3-(iso-buten-1-yl)-phenylbromide (1.0 g, 4.74 mmol) at such a rate as to maintain a steady reflux. After the arylbromide was completely added, the reaction was refluxed under nitrogen for 0.5 hours. The solution was allowed to settle for 18 hours and the supernatant was determined to have a 0.56 m titer for active grignard by tritrating a known quantity of 2-methoxynaphthalene-6-carboxaldehyde.

reactant | magnesium | [Mg] | Mg
reactant | 3-(iso-buten-1-yl)-phenylbromide | 4.74 mmol, 1.0 g | C(=C(C)C)C=1C=C(C=CC1)Br | C10H11Br
reactant | 2-methoxynaphthalene-6-carboxaldehyde | COC1=CC2=CC=C(C=C2C=C1)C=O | C12H10O2
solvent | THF | 4.61 mL | C1CCOC1 | C4H8O
product | 3-(iso-buten-1-yl)phenylmagnesium bromide | C(=C(C)C)C=1C=C(C=CC1)[Mg]Br | InChI=1S/C10H11.BrH.Mg/c1-9(2)8-10-6-4-3-5-7-10;;/h3-4,6-8H,1-2H3;1H;/q;;+1/p-1
